US07932272B2
2-Amino-6-(3-methoxy-propyl)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
To a mixture of 2-amino-6-(3-methoxy-1-(Z)-propenyl)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide described in Example A-90 (3.0 mg, 0.0059 mmol) and tetrahydrofuran (1 mL) were added triethylamine (3.6 mg, 0.036 mmol) and 10% palladium-carbon (50% water wet, 5 mg), and the solution was stirred under hydrogen atmosphere at room temperature for 15 minutes. The interior of the reaction system was exchanged with nitrogen, then, filtration was carried out through Celite pad, the solvent was evaporated in vacuo. The residue was purified by reverse phase high performance liquid chromatography (acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid) was used), and trifluoroacetic acid salt of the title compound (0.48 mg, 0.00094 mmol, 16%) was obtained.

reactant | 2-amino-6-(3-methoxy-1-(Z)-propenyl)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)\C=C/COC | C21H21N3O3S
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | triethylamine | 0.036 mmol, 3.6 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile water | C(C)#N.O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | palladium-carbon | 5 mg | [C].[Pd]
product | 2-Amino-6-(3-methoxy-propyl)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.00094 mmol, 0.48 mg, 16% | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)CCCOC | C21H23N3O3S
